* C:\Documents and Settings\Administrator\My Documents\Dsch2\Book on CMOS\spiceInv.sch
* DSCH 2.6i
* created 5/9/2003 10:18:39 AM
*
MN1 0 2 3 0 TN W=1.0u L=0.12u
* Gate n°2
VG 2 0 DC 1.2
VD 3 0 DC 1.2
*
* Mos models in 0.12µm
* Model 3 n-channel MOS
.MODEL  TN  NMOS
+ LEVEL=3            TPG=+1
+ GAMMA=0.2          THETA=0.5          KAPPA=0.1        ETA=0.002
+ DELTA=0.0          UO=620             VMAX=100E3       VTO=0.35
+ TOX=3e-9           XJ=0.1U            LD=0.00U         NSUB=1E+18
+ NSS=0.2            NFS=7E11
+ CJ=4.091E-4        MJ=0.307           PB=1.0
+ CJSW=3.078E-10     MJSW=1.0E-2
+ CGSO=3.93E-10      CGDO=3.93E-10
.DC VD 0 1.2 0.1 VG 0 1.2 0.2 
*#run
*#plot -I(VD)
.OPTIONS RELTOL=0.00001
.END
